### PR TITLE
[Merged by Bors] - feat: Add a basic layercake formula for Bochner integral.

### PR DESCRIPTION
**Pull request by kkytola**
Layer cake formulas currently exist for `ENNReal`-valued functions and Lebesgue integrals. This PR adds the most common version of the layer cake formula for integrable a.e.-nonnegative real-valued functions and Bochner integrals.

---

I don't know if the other (more general) versions of layercake should be similarly generalized. The proofs are basically similar, but the statements themselves become a bit unpleasant due to integrability requirements for something slightly complicated. I would therefore at least wait until they are needed.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 1]
```diff
@@ -377,3 +381,95 @@ theorem lintegral_rpow_eq_lintegral_meas_lt_mul (μ : Measure α) [SigmaFinite 
...
 
 end LayercakeLT
+
+section LayercakeIntegral
+
+variable {α : Type*} [MeasurableSpace α] {μ : Measure α} [SigmaFinite μ]
+
+/-- If `f` is integrable, then for any `c > 0` the set `{x | ‖f x‖ ≥ c}` has finite measure. -/
+lemma Integrable.measure_const_le_norm_lt_top {E : Type*} [NormedAddCommGroup E] [MeasurableSpace E]
+    [BorelSpace E] {f : α → E} (f_intble : Integrable f μ) {c : ℝ} (c_pos : 0 < c) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:391]: You shouldn't need to have a measurable space structure on `E` in the statement. If you need it in the proof, you can use `borelize E`. Also, you shouldn't need mu to be sigma-finite.

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 2]
```diff
@@ -377,3 +381,95 @@ theorem lintegral_rpow_eq_lintegral_meas_lt_mul (μ : Measure α) [SigmaFinite 
...
+
+/-- If `f` is integrable, then for any `c > 0` the set `{x | ‖f x‖ > c}` has finite measure. -/
+lemma Integrable.measure_const_lt_norm_lt_top
+    {E : Type*} [NormedAddCommGroup E] [MeasurableSpace E] [BorelSpace E]
+    {f : α → E} (f_intble : Integrable f μ) {c : ℝ} (c_pos : 0 < c) :
+    μ {a : α | c < ‖f a‖} < ∞ :=
+  lt_of_le_of_lt (measure_mono (fun _ h ↦ (Set.mem_setOf_eq ▸ h).le))
+    (Integrable.measure_const_le_norm_lt_top f_intble c_pos)
+
+variable {f : α → ℝ} (f_intble : Integrable f μ)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:413]: could you move the assumptions `f_intble` to all the lemmas that use it? Otherwise, the statements are harder to understand for someone just browsing through the file.

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 3]
```diff
@@ -377,3 +381,95 @@ theorem lintegral_rpow_eq_lintegral_meas_lt_mul (μ : Measure α) [SigmaFinite 
...
+/-- If `f` is `ℝ`-valued and integrable, then for any `t < 0` the set `{x | f x < t}` has finite
+measure. -/
+lemma Integrable.measure_lt_const_lt_top {c : ℝ} (c_neg : c < 0) :
+    μ {a : α | f a < c} < ∞ :=
+  lt_of_le_of_lt (measure_mono (fun _ hx ↦ (Set.mem_setOf_eq ▸ hx).le))
+    (Integrable.measure_le_const_lt_top f_intble c_neg)
+
+/-- The standard case of the layer cake formula / Cavalieri's principle / tail probability formula:
+
+For an integrable a.e.-nonnegative real-valued function `f` on a sigma-finite measure space,
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:450]: again, I don't see why sigma-finite should be relevant here.

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:450]: In this actual layercake formula result, sigma-finiteness is needed because the proof of the layercake formula is at its heart an application of Fubini's theorem.

(One can trace back the necessity of the hypotheses in the current proof to first the most fundamental layercake formula `lintegral_comp_eq_lintegral_meas_le_mul_of_measurable` in the present file, and in its proof to Fubini's theorems `lintegral_lintegral_swap`).

You are completely right that including `[SigmaFinite μ]` in the `variable` line in this section is a mistake, none of the results except this very last one need this hypothesis.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:450]: Still I don't think that sigma-finiteness is relevant here: you could restrict your measure to the set where `f > 0` (which doesn't change anything to the desired formula), and this restricted measure is sigma-finite as the function is integrable. Maybe first state an auxiliary lemma assuming the measure is sigma-finite, and deduce the general case afterwards?
(See `MeasureTheory.Integrable.aefinStronglyMeasurable` and `AEFinStronglyMeasurable.exists_set_sigmaFinite`)

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:450]: Oh, thanks, this seems like a nice strenghtening!

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:451]: I wrote a proof without the sigma-finiteness assumption as you suggested.

The proof structure is in principle the same as before, except two observations `obs` and `obs'` are needed to reduce to the earlier case. Mathematically these two observations are trivial, but I failed to come up with short proofs. I'm probably missing some good ways of handling the a.e. properties and restrictions of measures here.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:451]: Can you remove `sigma-finite` from the docstring then?

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean]: Sorry, I forgot to update the docstring! I now fixed the docstring of this theorem and added a note in the module docstring. The module docstring starts by assuming sigma-finiteness, and I'd keep it that way unless you think it is misleading.

Thanks again! Getting rid of the sigma-finiteness assumption is a nice generalization that simply did not occur to me when writing this.

And sorry, still, that my proofs of `obs` and `obs'` are clumsy. Both sound like they should be one-liners and then they should be done in the middle of the proof, but if they are not one-liners, should they be separated to lemmas of their own? At least `obs` might have other uses. For `obs'`, I'd have to think about a formulation that has potential of being useful elsewhere. I will still at least think about this, but if you have a clear opinion about whether to separate these, I'll be happy to hear.

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean]: I will rewrite separating these as lemmas --- I believe it will be clearer and the golfing opportunities will also be clearer. I marked as `awaiting_author` while I do the change.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 4]
```diff
@@ -825,6 +825,12 @@ theorem Integrable.measure_ge_lt_top {f : α → β} (hf : Integrable f μ) {ε
     (memℒp_one_iff_integrable.2 hf).snorm_ne_top
 #align measure_theory.integrable.measure_ge_lt_top MeasureTheory.Integrable.measure_ge_lt_top
 
+/-- A non-quantitative version of Markov inequality for integrable functions: the measure of points
+where `‖f x‖ > ε` is finite for all positive `ε`. -/
+lemma Integrable.measure_gt_lt_top {f : α → β} (hf : Integrable f μ) {ε : ℝ} (hε : 0 < ε) :
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Function/L1Space.lean:830]: I now found the existing result `Integrable.measure_norm_ge_lt_top`, which was essentially identical to one of the lemmas I added.

I am tempted to rename this existing result and the `gt` counterpart here as `Integrable.measure_norm_ge_lt_top` and `Integrable.measure_norm_gt_lt_top`, respectively. Then the new ones, used in the layercake file, could be called `Integrable.measure_gt_lt_top`, `Integrable.measure_ge_lt_top` etc. The justification for the naming would be that the new ones have the `gt`/`ge` on values, whereas the old one has it for the norm of the value.

Is it ok to rename?

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 5]
```diff
@@ -1443,6 +1449,56 @@ theorem toL1_smul' (f : α → β) (hf : Integrable f μ) (k : 𝕜) :
...
+        apply measure_mono
+        gcongr
+        intro x hx hfx
+        simp only [mem_preimage, mem_setOf_eq] at hx hfx
+        exact ht (hfx ▸ hx)
+      simp only [obs, add_zero, le_refl]
+    · exact NullMeasurableSet.of_null hs
+  · exact f_intble.restrict.aemeasurable.nullMeasurable t_mble
+
+lemma restrict_aeeq_zero_iff_ae_mem_eq_zero [MeasurableSpace E] [MeasurableSingletonClass E]
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Function/L1Space.lean:1490]: Is there a preferred spelling?

[`AEFinStronglyMeasurable.exists_set_sigmaFinite`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.html#MeasureTheory.AEFinStronglyMeasurable.exists_set_sigmaFinite) uses the LHS spelling.

[`set_integral_eq_integral_of_ae_compl_eq_zero`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/SetIntegral.html#MeasureTheory.set_integral_eq_integral_of_ae_compl_eq_zero) uses the RHS spelling.

I have added `integral_eq_integral_restrict` as well as this equivalence `restrict_aeeq_zero_iff_ae_mem_eq_zero` essentially only for the reason to glue between the different spellings in the above two results.

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 6]
```diff
@@ -403,6 +403,12 @@ theorem set_integral_eq_integral_of_forall_compl_eq_zero (h : ∀ x, x ∉ s →
   set_integral_eq_integral_of_ae_compl_eq_zero (eventually_of_forall h)
 #align measure_theory.set_integral_eq_integral_of_forall_compl_eq_zero MeasureTheory.set_integral_eq_integral_of_forall_compl_eq_zero
 
+lemma integral_eq_integral_restrict [MeasurableSpace E] [MeasurableSingletonClass E]
+    (hs : f =ᵐ[Measure.restrict μ sᶜ] 0) (f_mble : NullMeasurable f (μ.restrict sᶜ)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:407]: You shouldn't need `f_mble` here, as it is a consequence of `hs`.
```suggestion
    (hs : f =ᵐ[restrict μ sᶜ] 0) :
```

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/L1Space.lean:830]: Yes, the rename makes perfect sense. Maybe move the other lemmas `Integrable.measure_ge_lt_top` and so on close to this one, for easier discoverability?

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/L1Space.lean:1490]: I'd say `ae_restrict_eq_zero_iff_ae_eq_zero_of_mem`.

Comment (kkytola) [reply Mathlib/MeasureTheory/Function/L1Space.lean:1490]: Ok, I will change the naming as suggested.

But by preferred spelling, I meant whether the LHS or the RHS of this "iff" should be used as a hypothesis and conclusion of results. Currently, `[AEFinStronglyMeasurable.exists_set_sigmaFinite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.html#MeasureTheory.AEFinStronglyMeasurable.exists_set_sigmaFinite)` has a conclusion of the LHS form, and `[set_integral_eq_integral_of_ae_compl_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/SetIntegral.html#MeasureTheory.set_integral_eq_integral_of_ae_compl_eq_zero)` has a hypothesis of the RHS form. This mismatch is why combining the two is not a one-liner.

Comment (kkytola) [reply Mathlib/MeasureTheory/Function/L1Space.lean:1490]: I realize it might have been clearer if I tagged the lemma type instead of the lemma name for this question. So the iff is:
```
f =ᵐ[Measure.restrict μ s] 0 ↔ ∀ᵐ x ∂μ, x ∈ s → f x = 0 
```

And the question is which of the two sides of the iff is or should be "normal form"? If there is no preference, then the users are more often responsible for translating between the spellings. If there is a clear preference, I can mark the present lemma as `@[simp]` (possibly reversing the direction).

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean (hunk 6 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/SetIntegral.lean]: I failed to fix the proof without `(f_mble : NullMeasurable f μ)` or alternatively `(s_mble : MeasurableSet s)` (new lemma `integral_eq_integral_restrict'` below).

Could you clarify how you intended to bypass all measurability requirements?

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/SetIntegral.lean]: UPDATE: Sorry, I did not read my own NullMeasurability hypothesis correctly... This should be clear, I will fix!

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: Don't mark this as `simp`, there is no clear direction which is better. I think the current direction is fine.

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/SetIntegral.lean]: If a function `g` is null-measurable and a function `f` coincides ae with it, isn't `f` automatically null-measurable also? If not, discard my comment. If yes, apply this with `g = 0`.

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/SetIntegral.lean]: You are right, of course. Sorry!

I will also reverse the direction of the equality and try to have a naming more in line with the lemmas just above this, of the form `set_integral_eq_integral_of_...`.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 7]
```diff
@@ -1443,6 +1481,62 @@ theorem toL1_smul' (f : α → β) (hf : Integrable f μ) (k : 𝕜) :
...
+lemma NullMeasurable.measure_preimage_eq_measure_restrict_preimage_of_ae_compl_eq_const
+    {β : Type*} [MeasurableSpace β] {b : β} {f : α → β} {s : Set α}
+    (f_mble : NullMeasurable f (μ.restrict s)) (hs : f =ᵐ[Measure.restrict μ sᶜ] (fun _ ↦ b))
+    {t : Set β} (t_mble : MeasurableSet t) (ht : b ∉ t) :
+    μ (f ⁻¹' t) = μ.restrict s (f ⁻¹' t) := by
+  rw [Measure.restrict_apply₀ (f_mble t_mble)]
+  simp only [EventuallyEq, Filter.Eventually, Pi.zero_apply, Measure.ae,
+             MeasurableSet.compl_iff, Filter.mem_mk, mem_setOf_eq] at hs
+  rw [Measure.restrict_apply₀] at hs
+  · apply le_antisymm _ (measure_mono (inter_subset_left _ _))
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space.lean:1525]: I am not sure these 3 lemmas belong here, as they don't involve integrable functions. Move them to a more appropriate place?

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 8]
```diff
@@ -403,6 +403,16 @@ theorem set_integral_eq_integral_of_forall_compl_eq_zero (h : ∀ x, x ∉ s →
   set_integral_eq_integral_of_ae_compl_eq_zero (eventually_of_forall h)
 #align measure_theory.set_integral_eq_integral_of_forall_compl_eq_zero MeasureTheory.set_integral_eq_integral_of_forall_compl_eq_zero
 
+/-- If a function equals zero almost everywhere w.r.t. restriction of the measure to `sᶜ`, then its
+integral on `s` coincides with its integral on the whole space. -/
+lemma set_integral_eq_integral_of_ae_restrict_eq_zero
+    [MeasurableSpace E] [MeasurableSingletonClass E] (hs : f =ᵐ[μ.restrict sᶜ] 0) :
+    ∫ ω in s, f ω ∂μ = ∫ ω, f ω ∂μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:410]:
```suggestion
lemma set_integral_eq_integral_of_ae_restrict_eq_zero (hs : f =ᵐ[μ.restrict sᶜ] 0) :
    ∫ ω in s, f ω ∂μ = ∫ ω, f ω ∂μ := by
  borelize E
```

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 7 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: Indeed, thanks. I moved to `MeasureSpace.lean`, which is where `Measure.restrict` is defined.

Comment (kkytola) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: An update: I had to move two of these three to `SetIntegral.lean`, because `MeasureSpace.lean` was not imported there and they were used. But I suppose that file is still a better place than `L1Space.lean`.

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 9]
```diff
@@ -403,6 +403,36 @@ theorem set_integral_eq_integral_of_forall_compl_eq_zero (h : ∀ x, x ∉ s →
...
+  simp only [Measure.ae, MeasurableSet.compl_iff, EventuallyEq, Filter.Eventually,
+             Pi.zero_apply, Filter.mem_mk, mem_setOf_eq]
+  rw [Measure.restrict_apply₀]
+  · constructor <;> intro h <;> rw [← h] <;> congr <;> ext x <;> aesop
+  · apply NullMeasurableSet.compl
+    convert f_mble (MeasurableSet.singleton 0)
+
+lemma ae_restrict_eq_zero_iff_ae_eq_zero_of_mem' {E : Type*} [Zero E] (f : α → E) {s : Set α}
+    (s_mble : MeasurableSet s) :
+    f =ᵐ[Measure.restrict μ s] 0 ↔ ∀ᵐ x ∂μ, x ∈ s → f x = 0 := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:419]: could you replace zero here by an arbitrary constant in E (and remove the class `Zero E`)?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by kkytola** [comment]
> ✌️ kkytola can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+

**Comment by sgouezel** [comment]
Followup in #7454
